US07622583B2
5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid (3-fluoro-phenyl)-methyl-amide
5-Chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid (50 mg, 0.12 mmol), (3-fluoro-phenyl)-methyl-amine (45 mg, 0.36 mmol), BOP (69 mg, 0.36 mmol), DIEA (130 μL, 0.72 mmol) were reacted according to the procedure D to provide the title compound. HPLC purification (20→90% gradient of MeCN-water) provided 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid (3-fluoro-phenyl)-methyl-amide: MS m/z: (M+H) 521.9.

reactant | 5-Chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid | 0.12 mmol, 50 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | (3-fluoro-phenyl)-methyl-amine | 0.36 mmol, 45 mg | FC=1C=C(C=CC1)NC | C7H8FN
reactant | BOP | 0.36 mmol, 69 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.72 mmol, 130 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid (3-fluoro-phenyl)-methyl-amide | FC=1C=C(C=CC1)N(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C | C20H13Cl2F4N3O3S
